US08404680B2
5-(2,2,2-Trifluoro-ethoxy)-pyridine-2-carboxylic acid [3-((3aS,7S,7aS)-5-amino-7-methyl-3,3a,7,7a-tetrahydro-4H-2,4-dioxa-6-aza-inden-7-yl)-4-fluoro-phenyl]-amide
The coupling of (3aS,7S,7aS)-7-(5-amino-2-fluoro-phenyl)-7-methyl-3,3a,7,7a-tetrahydro-1H-2,4-dioxa-6-aza-inden-5-ylamine and 5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid (prepared as described in Banner D. et al., WO 2010/128 058) following procedure G yielded the title compound as a colorless solid. MS: m/z=469.2 [M+H]+.

reactant | (3aS,7S,7aS)-7-(5-amino-2-fluoro-phenyl)-7-methyl-3,3a,7,7a-tetrahydro-1H-2,4-dioxa-6-aza-inden-5-ylamine | NC=1C=CC(=C(C1)[C@]1(N=C(O[C@@H]2COC[C@H]12)N)C)F | C13H16FN3O2
reactant | 5-(2,2,2-trifluoro-ethoxy)-pyridine-2-carboxylic acid | FC(COC=1C=CC(=NC1)C(=O)O)(F)F | C8H6F3NO3
product | 5-(2,2,2-Trifluoro-ethoxy)-pyridine-2-carboxylic acid [3-((3aS,7S,7aS)-5-amino-7-methyl-3,3a,7,7a-tetrahydro-4H-2,4-dioxa-6-aza-inden-7-yl)-4-fluoro-phenyl]-amide | NC=1O[C@@H]2COC[C@@H]2[C@@](N1)(C)C=1C=C(C=CC1F)NC(=O)C1=NC=C(C=C1)OCC(F)(F)F | C21H20F4N4O4
